US06884868B1
A solution of 4-(4-cyclohexyloxypiperidin-1-yl)benzonitrile (1.90 g), thiosemicarbazide (0.91 g) in toluene (20 ml) and trifluroacetic acid (10 ml) was stirred at 60-65° C. with stirring for 7 hours. After cooling, the reaction mixture was poured into a mixture of water (100 ml) and ethyl acetate (100 ml) and adjusted to pH 10 with 1N-sodium hydroxide. The mixture was dissolved in a mixture of THF (50 ml) and ethyl acetate (100 ml). The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting precipitate was washed diisopropyl ether and dried in vacuo to give 2-amino-5-[4-[4-(cyclohexyloxy)piperidin-1-yl]phenyl]-1,3,4-thiadiazole (1.72 g).

reactant | 4-(4-cyclohexyloxypiperidin-1-yl)benzonitrile | 1.90 g | C1(CCCCC1)OC1CCN(CC1)C1=CC=C(C#N)C=C1 | C18H24N2O
reactant | thiosemicarbazide | 0.91 g | NNC(=S)N | CH5N3S
reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | trifluroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-5-[4-[4-(cyclohexyloxy)piperidin-1-yl]phenyl]-1,3,4-thiadiazole | 1.72 g | NC=1SC(=NN1)C1=CC=C(C=C1)N1CCC(CC1)OC1CCCCC1 | C19H26N4OS
